US05198208
(b) 1-(5-Hydroxy-3-oxapentyl)-1,4,7,10-tetraazacyclododecane-4,7,10-triacetic acid
1,4,7,10-Tetraazacyclododecane-4,7,10-triacetic acid tri-t-butyl-ester (515 mg, 1 mmol) was dissolved in dimethylformamide (3 ml). Sodium iodide (15 mg, 0.1 mmol), triethylamine (233 mg, 2.5 mmol) and 2(2-chloroethoxy)ethanol (313 mg, 3.5 mmol) were added to the stirred mixture at ambient temperature. The mixture was stirred for 18 hours at ambient temperature. The temperature was then raised to 100° C. and kept there for 1 hour. The solvent was then evaporated and the residue dissolved in a mixture of dichloromethane (4.5 ml) and trifluoroacetic acid (4.5 ml). The mixture was stirred for 2 hours at ambient temperature and the solvent was then evaporated. The residue was dissolved in water (8 ml), and this aqueous solution was washed with ether (6×4 ml). The aqueous solution was acidified and the title compound was isolated as a hygroscopic white powder after evaporation of the water. Yield 325 mg (75%), FAB MS: 435(M+1). The structure was confirmed by 1HNMR and 13C NMR.

reactant | 1,4,7,10-Tetraazacyclododecane-4,7,10-triacetic acid tri-t-butyl-ester | 1 mmol, 515 mg | C(C)(C)(C)OC(CN1CCNCCN(CCN(CC1)CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)=O | C26H50N4O6
reactant | Sodium iodide | 0.1 mmol, 15 mg | [I-].[Na+]
reactant | triethylamine | 2.5 mmol, 233 mg | C(C)N(CC)CC | C6H15N
reactant | 2(2-chloroethoxy)ethanol | 3.5 mmol, 313 mg | ClCCOCCO | C4H9ClO2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-(5-Hydroxy-3-oxapentyl)-1,4,7,10-tetraazacyclododecane-4,7,10-triacetic acid | OCCOCCN1CCN(CCN(CCN(CC1)CC(=O)O)CC(=O)O)CC(=O)O | C18H34N4O8
